US05420164
To a solution of 1 g of 4-phenylcyclohexylamine in 10 ml of dichloromethane was added 2,6-diethylphenylisocyanate dropwise in the presence of pyridine and the mixture was stirred for 2 hours at room temperature. To the resultant mixture was added 30 ml of diluted hydrochloric acid and the solution was extracted with chloroform. The extract was washed with water, aqueous sodium hydrogencarbonate solution and saturated brine, and then dried over magnesium sulfate. The solvent was distilled away and the residue was crystallized from methanol to give 0.4 g of N-(2,6-diethylphenyl)-N'-(4-phenylcyclohexyl)urea, melting at 247°-249° C.

reactant | 4-phenylcyclohexylamine | 1 g | C1(=CC=CC=C1)C1CCC(CC1)N | C12H17N
reactant | 2,6-diethylphenylisocyanate | C(C)C1=C(C(=CC=C1)CC)N=C=O | C11H13NO
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | hydrochloric acid | 30 ml | Cl | ClH
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | N-(2,6-diethylphenyl)-N'-(4-phenylcyclohexyl)urea | 0.4 g | C(C)C1=C(C(=CC=C1)CC)NC(=O)NC1CCC(CC1)C1=CC=CC=C1 | C23H30N2O
